US07612075B2
(±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid
Water (1 mL) is added to a solution containing (±)-1-(4-amino-quinazolin-7-ylmethyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester (20 mg, 0.03 mmol), EXAMPLE 799, in a 1:1 mixture of THF/MeOH (2 mL). At ambient temperature, LiOH monohydrate (15 mg, 0.35 mmol) is then added. After 16 h, the reaction mixture is diluted with water and purified by reverse-phase HPLC [Buffer A: water w/0.1% TFA; Buffer B: CH3CN w/0.1% TFA; Gradient: 0% B to 60% B over 30 min] to provide 12 mg (63%) of the title compound as a white solid.

reactant | (±)-1-(4-amino-quinazolin-7-ylmethyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid methyl ester | 0.03 mmol, 20 mg | COC(=O)C1N(C(CN(C1)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)=O)CC2=CC=C1C(=NC=NC1=C2)N | C23H20ClN5O5S2
reactant | THF MeOH | 2 mL | C1CCOC1.CO
solvent | water | O | H2O
solvent | Water | 1 mL | O | H2O
product | (±)-1-(4-Amino-quinazolin-7-ylmethyl)-4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-6-oxo-piperazine-2-carboxylic acid | 12 mg, 63% | NC1=NC=NC2=CC(=CC=C12)CN1C(CN(CC1=O)S(=O)(=O)C1=CC2=C(S1)C=C(C=C2)Cl)C(=O)O | C22H18ClN5O5S2
